US05395975
Direct reaction of anisole, which is highly activated, with benzoyl chloride in the presence of iron powder to give 2,4-dibenzoylanisole is described in Zh. Org. Khim. 6 (1970) 535.

reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
catalyst | iron | [Fe] | Fe
product | 2,4-dibenzoylanisole | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)C(C1=CC=CC=C1)=O)OC | C21H16O3
